US04351954
Thereafter, 4.76 g (0.018 mol) of ethyl 2-azido-4,5,5-trifluoro-5-chloropentanoate was dissolved in 20 ml of ethanol. The resultant solution was placed in a three-neck round-bottom flask and 0.50 g of 5% palladium-containing activated carbon was added to the solution, and hydrogen was passed through the resultant mixture at a flow rate of 20 ml/min at room temperature for 22 hours. The catalyst was separated by filtration and the ethanol was expelled by distillation. By vacuum distilling the residual liquid, there was obtained 293 g (0.013 mol, yield of 69%) of ethyl 2-amino-4,5,5-trifluoro-5-chloropentanoate having b.p. 69° to 70° C./3 mm, nD20 1.4102, νNH2 3386 and 3318 cm-1 and νC=O 1733 cm-1.

reactant | ethyl 2-azido-4,5,5-trifluoro-5-chloropentanoate | 0.018 mol, 4.76 g | N(=[N+]=[N-])C(C(=O)OCC)CC(C(Cl)(F)F)F | C7H9ClF3N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium | 0.50 g | [Pd] | Pd
product | ethyl 2-amino-4,5,5-trifluoro-5-chloropentanoate | 0.013 mol, 293 g, yield of 69% | NC(C(=O)OCC)CC(C(Cl)(F)F)F | C7H11ClF3NO2
